US04363909
By following the procedure of Example 2, but using (S)-3-methylthio-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide (18.2 g) and 3-aminopyrazole (8.3 g) as the starting materials, (S)-3-(pyrazol-3-ylimino)-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline (7.0 g) is obtained in the form of white crystals, m.p.=161° C.

reactant | (S)-3-methylthio-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide | 18.2 g | [I-].CSC=1SC[C@H]2[N+]1CC=1C=CC=CC1C2
reactant | 3-aminopyrazole | 8.3 g | NC1=NNC=C1 | C3H5N3
product | (S)-3-(pyrazol-3-ylimino)-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline | 7.0 g | N1N=C(C=C1)N=C1SC[C@H]2N1CC=1C=CC=CC1C2 | C14H14N4S
